US07700774B2
Step (vi): Preparation of 2-Ethyl-6,8-dimethyl-2,3-dihydro-1H-[1,7]naphthyridin-4-one
This compound can be obtained by reacting a solution of 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid benzyl ester in methanol, under nitrogen atmosphere, with ammonium formate (2.5 eqv) and 10% Pd—C (50% water wet), at about 40° C. for a time period of about 1 h, followed by a typical workup.

reactant | 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CC(C2=CC(=NC(=C12)C)C)=O)CC | C20H22N2O3
reactant | ammonium formate | 2.5 eqv | C(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | 2-Ethyl-6,8-dimethyl-2,3-dihydro-1H-[1,7]naphthyridin-4-one | C(C)C1NC2=C(N=C(C=C2C(C1)=O)C)C | C12H16N2O
